US06492383B1
4-[7-(1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde
The title compound was prepared from 4-formylbenzeneboronic acid and (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 17. 1H NMR (400 MHz, DMSO) d 11.1 (s, 1H), 9.98 (s, 1H), 8.21 (d, 1H), 8.05 (s, 1H), 7.95 (s, 3H), 7.82 (d, 1H), 7.60 (m, 3H), 7.00 (d, 1H), 6.58 (s, 1H), 6.40 (s, 1H), LC-MS: 370 (MH+); HPLC RT: 4.83 minutes.

reactant | 4-formylbenzeneboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=CNC2=CC1 | C15H10BrN3S
product | 4-[7-(1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C22H15N3OS
